US05650510
9-(4-(phosphonomethoxy)butyl)adenine (IC)
To a slurry of 0.962 g (22.8 mmol) of 57% NaH in 150 ml of distilled DMF was added in one portion 3.363 gm (24.9 mmol) of adenine. The mixture was heated at 80° for 1 hr. and then cooled to 30° and 6.30 g (20.7 mmol) of 4-(diethylphosphonomethoxy)-1-bromobutane was added and the mixture was warmed to 60° and stirred for 2 hrs. The solvent was then removed under high vacuum and the residue was triturated three times with 100 ml of CH2Cl2 and filtered. The combined filtrates were evaporated and purified by SiO2 chromatography to give 4.9 g (66%) of Ia product as a white crystalline material mp 67°.

reactant | NaH | 22.8 mmol, 0.962 g | [H-].[Na+]
reactant | adenine | 24.9 mmol, 3.363 gm | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | 4-(diethylphosphonomethoxy)-1-bromobutane | 20.7 mmol, 6.30 g | C(C)OP(=O)(OCC)COCCCCBr | C9H20BrO4P
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 9-(4-(phosphonomethoxy)butyl)adenine | P(=O)(O)(O)COCCCCN1C2=NC=NC(=C2N=C1)N | C10H16N5O4P
